US04404230
4-Chloro-1,2-benzoisothiazol-3(2H)one-1,1-dioxide
A mixture of 16.4 gm (80 mmols) of 3-chloro-2-methyl-benzene sulfonamide, 14 gm (100 mmols) of potassium carbonate, 33.2 gm (210 mmols) of potassium permanganate and 350 ml of water was refluxed for 1 hour. The reaction mixture was filtered while still hot, and the filter cake was washed with hot water. The combined filtrates were acidified with concentrated aqueous hydrochloric acid and cooled. The resulting crystals were suction-filtered off, washed with water and dried.

reactant | 3-chloro-2-methyl-benzene sulfonamide | 80 mmols, 16.4 gm | ClC=1C(=C(C=CC1)S(=O)(=O)N)C | C7H8ClNO2S
reactant | potassium carbonate | 100 mmols, 14 gm | C([O-])([O-])=O.[K+].[K+]
reactant | potassium permanganate | 210 mmols, 33.2 gm | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 350 ml | O | H2O
product | 4-Chloro-1,2-benzoisothiazol-3(2H)one-1,1-dioxide | ClC1=CC=CC2=C1C(NS2(=O)=O)=O | C7H4ClNO3S
